US07943669B2
[4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Acetate
(2-Methyl-4-mercapto-phenoxy)-acetic acid ethyl ester (6 g; 26.51 mmol), dibromo-phenol (8.68 g; 34.47 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.97 g; 1.06 mmol), and 1,1′-bis-(diphenylphosphino)ferrocene (0.88 g; 1.59 mmol) were added to a dry reaction flask under an atmosphere of nitrogen. Triethylamine (10.73 mL, 106 mmol) and NMP (20 mL) were added, and the reaction mixture was stirred in a microwave oven for 1 h at 105° C. A 5% aqueous citric acid solution (150 mL) was added to the reaction mixture, which was extracted with ethyl acetate (4×100 mL). The pooled organic phases were washed twice with water (30 mL), dried and evaporated in vacuo. The crude reaction product was purified by flash chromatography (heptane:ethyl acetate (10:1→7:3). Yield 6.5 g. HPLC-MS: m/z: 397.3 (M+); Rt: 2.33 min.

reactant | (2-Methyl-4-mercapto-phenoxy)-acetic acid ethyl ester | 26.51 mmol, 6 g | C(C)OC(COC1=C(C=C(C=C1)S)C)=O | C11H14O3S
reactant | dibromo-phenol | 34.47 mmol, 8.68 g | BrC=1C(=C(C=CC1)O)Br | C6H4Br2O
reactant | Triethylamine | 106 mmol, 10.73 mL | C(C)N(CC)CC | C6H15N
reactant | citric acid | 150 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tris(dibenzylideneacetone)dipalladium | 1.06 mmol, 0.97 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)ferrocene | 1.59 mmol, 0.88 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | [4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Acetate | C(C)OC(C)=O.BrC=1C=C(C=C(C1)O)SC1=CC(=C(OCC(=O)O)C=C1)C | InChI=1S/C15H13BrO4S.C4H8O2/c1-9-4-12(2-3-14(9)20-8-15(18)19)21-13-6-10(16)5-11(17)7-13;1-3-6-4(2)5/h2-7,17H,8H2,1H3,(H,18,19);3H2,1-2H3
